US04735940
3.2 g of 4,5,9,10-tetrahydro-10-nitro-8-phenyl-8,10a-epithio-10aH-thieno[2,3-a]quinolizin-7(8H)-one was suspended in 300 ml of methanol. The suspension was treated while stirring with a solution of sodium methylate in methanol (prepared from 4.46 g of sodium and 5 ml of methanol) and subsequently with a solution of 14 g of sodium sulfide in 40 ml of methanol, whereby there results a dark solution which is held at 60° for 4 hours. After the methanol is removed by distillation in vacuo, the residue was taken up in water. The solution was extracted with chloroform and the organic phase was washed with saturated aqueous sodium chloride solution. The organic phase was dried over magnesium sulfate, evaporated in vacuo and the product was chromatographed on silica gel with toluene/acetone (9:1). There was obtained 10-amino-4,5-dihydro-8-phenyl-7H-thieno[2,3-a]quinolizin-7-one of m.p. 180.5°-181.5° (from toluene).

reactant | 4,5,9,10-tetrahydro-10-nitro-8-phenyl-8,10a-epithio-10aH-thieno[2,3-a]quinolizin-7(8H)-one | 3.2 g | [N+](=O)([O-])C1CC2(C(N3CCC4=C(C13S2)SC=C4)=O)C4=CC=CC=C4 | C17H14N2O3S2
reactant | sodium methylate | C[O-].[Na+]
reactant | sodium sulfide | 14 g | [S-2].[Na+].[Na+]
solvent | methanol | 300 ml | CO | CH4O
solvent | methanol | 5 ml, 4.46 g | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
product | 10-amino-4,5-dihydro-8-phenyl-7H-thieno[2,3-a]quinolizin-7-one | NC=1C=C(C(N2CCC3=C(C12)SC=C3)=O)C3=CC=CC=C3 | C17H14N2OS
